US07858640B2
[3-(4-chlorobenzyl)-2-ethoxy-4,7-dimethylquinolin-5-yl]acetic Acid
A solution of [3-(4-chlorobenzyl)-2-ethoxy-4,7-dimethylquinolin-5-yl]acetic acid methyl ester (0.10 g), methanol (2.0 mL), saturated aqueous lithium hydroxide solution (0.20 mL) and water (0.4 mL) was stirred at 50° C. for 5 hours. The methanol was removed under reduced pressure and the residue acidified by the addition of trifluoroacetic acid. The resulting precipitate was collected by filtration, washed with water and dried to afford title compound as a white solid, 0.095 g.

reactant | [3-(4-chlorobenzyl)-2-ethoxy-4,7-dimethylquinolin-5-yl]acetic acid methyl ester | 0.10 g | COC(CC1=C2C(=C(C(=NC2=CC(=C1)C)OCC)CC1=CC=C(C=C1)Cl)C)=O | C23H24ClNO3
reactant | methanol | 2.0 mL | CO | CH4O
reactant | lithium hydroxide | 0.20 mL | [OH-].[Li+]
solvent | water | 0.4 mL | O | H2O
product | [3-(4-chlorobenzyl)-2-ethoxy-4,7-dimethylquinolin-5-yl]acetic Acid | ClC1=CC=C(CC=2C(=NC3=CC(=CC(=C3C2C)CC(=O)O)C)OCC)C=C1 | C22H22ClNO3
